US07115750B1
Methyl 4-(2-aminophenyl)butanoate hydrochloride (7.20 g, 0.037 mol) synthesized by a known method by documents (Synthetic communications, 26(18), 3443 (1996)) and triethylamine (5.06 g, 0.05 mol) were dissolved in tetrahydrofuran (60 ml). Acetyl chloride (3.51 g, 0.045 mol) was added dropwise to the mixture, which was stirred at room temperature for 30 minutes. Ethyl acetate and 1N hydrochloric acid were added to the reaction mixture, and extraction was conducted. The organic layer was washed with water, concentrated and dried. A mixed solution of ethyl acetate-n-hexane (1:1) was added to the residue. The crystallized product was collected by filtration, to give methyl 4-(2-acetylaminophenyl)butanoate (6.40 g) as a white powder.

reactant | Methyl 4-(2-aminophenyl)butanoate hydrochloride | 0.037 mol, 7.20 g | Cl.NC1=C(C=CC=C1)CCCC(=O)OC
reactant | triethylamine | 0.05 mol, 5.06 g | C(C)N(CC)CC | C6H15N
reactant | Acetyl chloride | 0.045 mol, 3.51 g | C(C)(=O)Cl | C2H3ClO
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 60 ml | O1CCCC1 | C4H8O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | methyl 4-(2-acetylaminophenyl)butanoate | 6.40 g | C(C)(=O)NC1=C(C=CC=C1)CCCC(=O)OC | C13H17NO3
